US07018988B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(dimethylhydrazono)-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 17, starting from (2S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(2RS)-2-hydroxy-2-phenylethyl]4-oxo-2-pyrrolidinecarboxamide and N,N-dimethylhydrazine, the resultant crude reaction mixture was purified by column chromatography using DCM/MeOH (30:1) to collect the desired product, e.g. (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(dimethylhydrazono)-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide as a mixture of two isomers as a light yellow oil in 56% yield (90.2% purity by HPLC).

reactant | (2S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(2RS)-2-hydroxy-2-phenylethyl]4-oxo-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=O)C(=O)NCC(C1=CC=CC=C1)O)C1=CC=CC=C1 | C26H24N2O4
reactant | N,N-dimethylhydrazine | CN(N)C | C2H8N2
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(dimethylhydrazono)-N-[(2RS)-2-hydroxy-2-phenylethyl]-2-pyrrolidinecarboxamide | 56% yield | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NN(C)C)C(=O)NCC(C1=CC=CC=C1)O)C1=CC=CC=C1 | C28H30N4O3
